US07199147B2
To a suspension of 1H-indazol-5-ol (134 mg, 0.999 mmol) in tetrahydrofuran (4 ml) were added tert-butyl 4-hydroxy-1-piperidinecarboxylate (201 mg, 0.999 mmol) and triphenylphosphine (262 mg, 0.999 mmol) at room temperature, followed by adding thereto diethyl azodicarboxylate (0.46 ml, 1.01 mmol) at 0° C., and the resulting mixture was stirred at 0° C. for 30 minutes and then at room temperature for 4 hours. Subsequently, the solvent of the reaction mixture was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=7/3) to obtain tert-butyl 4-(1H-indazol-5-yloxy)-1-piperidinecarboxylate (77 mg, 24%).

reactant | 1H-indazol-5-ol | 0.999 mmol, 134 mg | N1N=CC2=CC(=CC=C12)O | C7H6N2O
reactant | tert-butyl 4-hydroxy-1-piperidinecarboxylate | 0.999 mmol, 201 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 0.999 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.01 mmol, 0.46 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-(1H-indazol-5-yloxy)-1-piperidinecarboxylate | 77 mg, 24% | N1N=CC2=CC(=CC=C12)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H23N3O3
